US04402803
7-(thien-2-ylacetamido)-3-cephem-4-carboxylic acid
Fifty ml. of working fluid was prepared, containing 6.4 mg./ml. of 7-(thien-2-ylacetamido)-3-chloro-3-cephem-4-carboxylic acid in 0.25 molar pH 8 McIlvaine buffer containing 0.0375 molar tetrabutylammonium iodide. The McIlvaine buffer was prepared according to McIlvaine's article at Anal. Chem. 28, 1179 (1956). The measured pH of the working fluid was 7.3. It was transferred to the cathode compartment of an electrolysis cell having a mercury ring working electrode and a stirrer. The circular auxiliary electrode compartment was suspended over the mercury pool, and consisted of a platinum wire in toroidal shape over a 4% agar gel supported by a medium porosity sintered glass frit. The auxiliary fluid was saturated aqueous potassium sulfate. The cell was stoppered, and a deaerating frit, pH electrode, reference electrode and a delivery tube through which 2 N sulfuric acid could be added were installed. The reference electrode was a Beckman fiber-junction saturated calomel electrode.

reactant | 7-(thien-2-ylacetamido)-3-chloro-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C13H11ClN2O4S2
reactant | potassium sulfate | S(=O)(=O)([O-])[O-].[K+].[K+]
reactant | sulfuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
catalyst | tetrabutylammonium iodide | 0.0375 molar | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | mercury | [Hg] | Hg
catalyst | platinum | [Pt] | Pt
product | 7-(thien-2-ylacetamido)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C13H12N2O4S2
